US06229011B1
4-[[(2,6-Dichlorophenyl)carbonyl]amino]-N-[(2-ethyl-6-methylphenyl)carbonyl]-L-phenylalanine methyl ester was prepared in 46% yield from 4-[[(2,6-dichlorophenyl)carbonyl]amino]-L-phenylalanine methyl ester and 2-ethyl-6-methylbenzoic acid using the general procedure described in example 3. HR MS: Obs. mass, 513.1359. Calcd. mass, 513.1348 (M+H).

reactant | 4-[[(2,6-dichlorophenyl)carbonyl]amino]-L-phenylalanine methyl ester | COC([C@@H](N)CC1=CC=C(C=C1)NC(=O)C1=C(C=CC=C1Cl)Cl)=O | C17H16Cl2N2O3
reactant | 2-ethyl-6-methylbenzoic acid | C(C)C1=C(C(=O)O)C(=CC=C1)C | C10H12O2
product | 4-[[(2,6-Dichlorophenyl)carbonyl]amino]-N-[(2-ethyl-6-methylphenyl)carbonyl]-L-phenylalanine methyl ester | 46% yield | COC([C@@H](NC(=O)C1=C(C=CC=C1C)CC)CC1=CC=C(C=C1)NC(=O)C1=C(C=CC=C1Cl)Cl)=O | C27H26Cl2N2O4
